US05185360
5,10-Dihydro-2-(N,N-diethylamino)indeno[1,2-b]indole
5,10-Dihydro-2-(N-Acetyl-N-ethylamino)indeno[1,2-b]indole (0.5 g, 1.7 mM) in dry tetrahydrofuran (80 cm3), protected under an atmosphere of nitrogen, was treated with lithium aluminum hydride (0.3 g) during 1 hour. The reaction mixture was then heated to 50° C. for a further 1 hour, cooled, and saturated sodium potassium tartrate (5 cm3) added. The solvent layer was decanted from the aqueous residue, and the latter washed with tetrahydrofuran (3×8 cm3). The combined organic phase and washing were filtered through phase transfer paper and evaporated to yield a yellow solid. This was crystallised from 95% ethanol to afford the title compound 0.35 g as pale yellow prisms, M.p. 204°-206° C. After column chromatography (silica: ethyl acetate/60°-80° petrol), the M.p. of the compound was raised to 205°-206° C. (0.26 g, 55%).

reactant | 5,10-Dihydro-2-(N-Acetyl-N-ethylamino)indeno[1,2-b]indole | 1.7 mM, 0.5 g | C(C)(=O)N(CC)C=1C=C2CC3=C(NC=4C=CC=CC34)C2=CC1 | C19H18N2O
reactant | lithium aluminum hydride | 0.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium potassium tartrate | 5 cm3 | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | tetrahydrofuran | 80 cm3 | O1CCCC1 | C4H8O
product | 5,10-Dihydro-2-(N,N-diethylamino)indeno[1,2-b]indole | 0.35 g | C(C)N(CC)C=1C=C2CC3=C(NC=4C=CC=CC34)C2=CC1 | C19H20N2
